US05189027
1.95 g (5 mmol) of 2-iodoadenosine was dissolved in 20 ml of N,N-dimethylformamide (DMF), to which were added 0.18 g of bis(triphenylphosphine)palladium dichloride, 0.1 g of cuprous iodide, 2.8 ml of triethylamine and 0.8 ml of cyclohexylacetylene. The resulting mixture was stirred at a temperature of 90° C. for two hours. The reaction solution after being allowed to cool, was concentrated to dryness. The residue obtained was dissolved in chloroform, into which was vigorously introduced hydrogen sulfide gas over one minute. The solution was then dried under reduced pressure. The residue was purified by silica gel column chromatography, followed by recrystallization from ethanol-water, thereby obtaining 1.11 g (2.97 mmol) of crystalline 2-(cyclohexylethynyl)adenosine (yield: 59%).

reactant | 2-iodoadenosine | 5 mmol, 1.95 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexylacetylene | 0.8 ml | C1(CCCCC1)C#C | C8H12
reactant | hydrogen sulfide | S | H2S
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | bis(triphenylphosphine)palladium dichloride | 0.18 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(cyclohexylethynyl)adenosine | 2.97 mmol, 1.11 g, yield: 59% | C1(CCCCC1)C#CC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C18H23N5O4
